US05872115
Step 2): Bromodiphenylmethane (1.4 g, 5.6 mmol) was added to a solution of 2-(N'-n-heptylureido)-N-(piperidin-3-yl)benzamide (1.0 g, 2.8 mmol) and K2CO3 (0.4 g, 2.9 mmol) in DMSO (5 ml) at 0° C. The mixture was refluxed for 18 hours, poured into 1% NaHCO3 solution, extracted with ethyl acetate and washed with 1% NaHCO3 solution. The organic layer was dried (MgSO4) and concentrated. The residue was purified by column chromatography on silica gel (25% to 50% ethyl acetate in hexane) to give 2-(N'-n-heptylureido)-N-(1-diphenylmethylpiperidin-3-yl)benzamide (0.3 g, 20.5%): mp 112° C. 1H NMR (CDCl3)ppm: 0.88 (3H, t), 1.23-1.35 (8H, m), 1.47-1.85 (6H, m), 2.05-2.20 (1H, m), 2.35-2.49 (1H, m), 2.57-2.80 (2H, m), 3.24 (2H, q), 4.12-4.23 (1H, m), 4.35 (1H, s), 4.57-4.65 (1H, m), 6.90-7.55 (14H, m), 8.48 (1H, d), 10.37 (1H, s).

reactant | Bromodiphenylmethane | 5.6 mmol, 1.4 g | BrC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H11Br
reactant | 2-(N'-n-heptylureido)-N-(piperidin-3-yl)benzamide | 2.8 mmol, 1.0 g | C(CCCCCC)NC(NC1=C(C(=O)NC2CNCCC2)C=CC=C1)=O | C20H32N4O2
reactant | K2CO3 | 2.9 mmol, 0.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | 2-(N'-n-heptylureido)-N-(1-diphenylmethylpiperidin-3-yl)benzamide | 0.3 g, 20.5% | C(CCCCCC)NC(NC1=C(C(=O)NC2CN(CCC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1)=O | C33H42N4O2
